US06399603B1
(2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)-N-(4-(N,N-dimethyl)sulfamoylphenyl)carboxamide.
The title compound was prepared in a manner analogous to Example 1 from 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carboxylic acid and 4-(N,N-dimethyl)sulfamoylaniline. 1H NMR (300 MHz, DMSO-d6):. 11.87 (s, 1H), 10.45 (s, 1H), 8.90 (d, J=2.7 Hz, 1H), 8.80 (d, J=2.7 Hz, 1H), 8.01 (d, J=2.4 Hz, 1H), 7.65 (d, J=8.7 Hz, 2H), 7.54 (d, J=8.7 Hz, 2H 2.64 (s, 6H). MS (APCI+): m/z 577, 579.

reactant | 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carboxylic acid | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)O | C15H8Cl2N4O5
reactant | 4-(N,N-dimethyl)sulfamoylaniline | CN(S(=O)(=O)C1=CC=C(N)C=C1)C | C8H12N2O2S
product | (2-((3,4-Dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)-N-(4-(N,N-dimethyl)sulfamoylphenyl)carboxamide | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C(=O)NC1=CC=C(C=C1)S(N(C)C)(=O)=O | C23H18Cl2N6O6S
